### PR TITLE
feat(Mathlib/Data/Finset/Mex): `sInf sᶜ ≤ s.encard`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
It's in a separate file because I couldn't find a sensible place with the required imports, not because "mex" is particularly interesting.

- [x] depends on: #35821
- [x] depends on: #35822

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Mex.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+-/
+module
+
+public import Mathlib.Data.Nat.Lattice
+public import Mathlib.Order.Interval.Set.Nat
+
+/-!
+# Mex lemmas
+
+The mex of a set is the smallest value in its complement.
```
Comment (vihdzp) [inline Mathlib/Order/Mex.lean]: Might as well explain what it stands for
```suggestion
The mex (minimum excluded value) of a set is the smallest value in its complement.
```

**Review by vihdzp — COMMENTED** [review]
We have something kind of similar as [`card_sInf_range_compl_le`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Family.html#Ordinal.card_sInf_range_compl_le). But I take it that your result is the finite version of this?

**Comment by vihdzp** [comment]
Maybe `Data/Finset/Mex` would be a more fitting file name? Since all your results are about finite sets.

**Comment by SnirBroshi** [comment]
> We have something kind of similar as [`card_sInf_range_compl_le`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Family.html#Ordinal.card_sInf_range_compl_le). But I take it that your result is the finite version of this?

Yeah I knew about the ordinal mex theorems before I wrote this, I wanted to make it apply to other types.

> Maybe `Data/Finset/Mex` would be a more fitting file name? Since all your results are about finite sets.

Half of them are about `Set`, and `coe_sInf_compl_le_encard` doesn't require the set to be finite.
Also I need cardinal versions of these which I plan to add to this file.
I'm hoping there's a version which generalizes the ordinal theorems.

Next I plan to prove similar statements for `WellFounded.min` instead of `sInf`, you're welcome to help!

Do you think it's worth splitting the finite versions from (future) cardinal / well-founded versions? If so then I'll rename to `Data/Finset/Mex` and a future PR will add `Order/Mex`.

**Comment by SnirBroshi** [comment]
> Why do you need versions using `WellFounded.min`? What kind of unbundled well-founded relation are you working with? (If you have a well-order, then you might as well just define a `ConditionallyCompleteLinearOrder` instance and use `sInf` instead).

I am indeed using well-orders, but the order must be an argument rather than an `LE` instance, so defining an order instance seems weird – it probably means adding a `haveI` to the theorem statement, to instantiate the `InfSet` instance from the given well-order. That's why I ignored the recommendation in the docstring of [`WellFounded.min`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/WellFounded.html#WellFounded.min).

(the `WellFounded.min` versions should probably exist regardless of my use-case)

File: Mathlib/Data/Finset/Mex.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+<https://en.wikipedia.org/wiki/Mex_(mathematics)>
+
+This file shows that the cardinality of a set is an upper-bound for its mex.
+
+## Tags
+
+minimum excluded value, smallest, infimum, complement
+-/
+
+@[expose] public section
```
Comment (vihdzp) [inline Mathlib/Data/Finset/Mex.lean]: Using `expose` is redundant if there are no defs in the file.
```suggestion
public section
```

File: Mathlib/Data/Finset/Mex.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+  apply Nat.notMem_of_lt_sInf
+
+theorem coe_sInf_compl_le_encard (s : Set ℕ) : sInf sᶜ ≤ s.encard := by
+  rcases s.finite_or_infinite with hfin | hinf
+  · grw [← ncard_le_encard]
+    exact_mod_cast sInf_compl_le_ncard hfin
+  · rw [hinf.encard_eq]
+    exact le_top
+
+theorem sInf_coe_compl_le_card (s : Finset ℕ) : sInf sᶜ ≤ s.card := by
```
Comment (vihdzp) [inline Mathlib/Data/Finset/Mex.lean]: What about putting the `Finset` lemmas in the `Finset` namespace?

Comment (SnirBroshi) [reply Mathlib/Data/Finset/Mex.lean]: Added those and everything else to appropriate namespaces
